US08133909B2
(S)-2-Amino-N-(3,4-dimethyl-phenyl)-N-[2-(5-methyl-pyridin-2-yl)-ethyl]-2-phenyl-acetamide dihydrochloride
To a solution of 50 mg (0.11 mmol) ((S)-{(3,4-dimethyl-phenyl)-[2-(5-methyl-pyridin-2-yl)-ethyl]-carbamoyl}-phenyl-methyl)-carbamic acid tert-butyl ester in 0.2 mL dioxane was added 265 uL (1.06 mmol) of a 4 M HCl solution in dioxane. The mixture was stirred at room temperature for 18 hours. The solvent was removed in vacuo. Ethylacetate was added and the mixture was stirred slowly at ambient temperature. The solid was filtered, rinsed with ether and dried under vacum to provide 0.044 g (94%) of the title compound as a light yellow solid MS (m/e): 374.3 [M+H]+.

reactant | ((S)-{(3,4-dimethyl-phenyl)-[2-(5-methyl-pyridin-2-yl)-ethyl]-carbamoyl}-phenyl-methyl)-carbamic acid tert-butyl ester | 0.11 mmol, 50 mg | C(C)(C)(C)OC(N[C@@H](C1=CC=CC=C1)C(N(CCC1=NC=C(C=C1)C)C1=CC(=C(C=C1)C)C)=O)=O | C29H35N3O3
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 0.2 mL | O1CCOCC1 | C4H8O2
product | (S)-2-Amino-N-(3,4-dimethyl-phenyl)-N-[2-(5-methyl-pyridin-2-yl)-ethyl]-2-phenyl-acetamide dihydrochloride | 0.044 g, 94% | Cl.Cl.N[C@H](C(=O)N(CCC1=NC=C(C=C1)C)C1=CC(=C(C=C1)C)C)C1=CC=CC=C1 | InChI=1S/C24H27N3O.2ClH/c1-17-9-11-21(26-16-17)13-14-27(22-12-10-18(2)19(3)15-22)24(28)23(25)20-7-5-4-6-8-20;;/h4-12,15-16,23H,13-14,25H2,1-3H3;2*1H/t23-;;/m0../s1
